US07300917B2
2-[2-(3,5-dimethoxybenzoyl)1-(2-phenylethyl)-1H-benzimidazole-6-yl]benzoic acid (compound (47))
2-[1-(2-phenylethyl)-1H-benzimidazole-6-yl]benzoic acid and N,3,5-trimethoxy-N-methylbenzamide were subjected to a reaction in the presence of lithium diisopropylamide to give the compound having the following physical data.

reactant | 2-[1-(2-phenylethyl)-1H-benzimidazole-6-yl]benzoic acid | C1(=CC=CC=C1)CCN1C=NC2=C1C=C(C=C2)C2=C(C(=O)O)C=CC=C2 | C22H18N2O2
reactant | N,3,5-trimethoxy-N-methylbenzamide | CON(C(C1=CC(=CC(=C1)OC)OC)=O)C | C11H15NO4
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
product | 2-[2-(3,5-dimethoxybenzoyl)1-(2-phenylethyl)-1H-benzimidazole-6-yl]benzoic acid | COC=1C=C(C(=O)C2=NC3=C(N2CCC2=CC=CC=C2)C=C(C=C3)C3=C(C(=O)O)C=CC=C3)C=C(C1)OC | C31H26N2O5
